US07470708B2
Methyl 6-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylate
250 ml de Dowtherm-A are brought to reflux (about 235° C.) under a nitrogen atmosphere. 41 g (0.16 M) of 2-(4-fluorophenylamino)but-2-enedioic acid dimethyl ester are then introduced dropwise. The methanol formed is separated out. Refluxing is maintained for 10 minutes after the end of introduction. The reaction mixture is then cooled to about 50° C., followed by addition of 250 ml of petroleum ether: a solid precipitates out. It is filtered off by suction, washed three times with petroleum ether and then dried under reduced pressure.

reactant | Dowtherm-A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | 2-(4-fluorophenylamino)but-2-enedioic acid dimethyl ester | 0.16 M, 41 g | COC(C(=CC(=O)OC)NC1=CC=C(C=C1)F)=O | C12H12FNO4
solvent | methanol | CO | CH4O
product | Methyl 6-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylate | FC=1C=C2C(C=C(NC2=CC1)C(=O)OC)=O | C11H8FNO3
